US07576094B2
A solution of 5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (500 mg) in anhydrous CH2Cl2 (3 mL) was mixed with a 15% aq. NaOH solution (2.0 mL). The resulting mixture was cooled to 0° C. and stirred vigorously while being treated with slow addition of a solution of chloroacetyl chloride (0.534 mL) in CH2Cl2 (2 mL). The reaction mixture was allowed to warm up to ambient temperature and stirred for an additional 6 h. Upon layer separation, organic phase was collected and dried over Na2SO4, followed by solvent evaporation. Column chromatography (SiO2: hexane:EtOAc, 95:5 v/v) yielded 5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl chloroacetate as a pale yellow solid (204 mg).

reactant | 5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 500 mg | CC1=C2CCC3(CCC3)OC2=C(C(=C1O)C)C | C15H20O2
reactant | NaOH | 2.0 mL | [OH-].[Na+]
reactant | chloroacetyl chloride | 0.534 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl chloroacetate | 204 mg | ClCC(=O)OC=1C(=C2CCC3(CCC3)OC2=C(C1C)C)C | C17H21ClO3
